US08865863B2
Benzyl 3-aminopropylcarbamate (12) (Synthesis, 2002, 15, 2195-2202)
To a solution of 1,3-propanediamine (6.50 g, 87.0 mol) in 250 mL of abs. EtOH was added benzyl phenyl carbonate (20.0 g, 87.0 mmol). The solution was stirred overnight. A white precipitate formed. The solvent was removed in a rotary evaporator, and the residue was taken up with 100 ml of distilled H2O. This was followed by acidification with 2M HCl to pH 1-2, and 4× extracting with 250 mL of CH2Cl2 each time. The aqueous phase was rendered strongly alkaline with 2M NaOH and extracted 4× with 250 mL of CH2Cl2 each time. The combined organic phases were dried over Na2SO4, subsequently the solvent was removed in a rotary evaporator to obtain the product as a viscid white mass (4.70 g, 26%).

reactant | 1,3-propanediamine | 87.0 mol, 6.50 g | C(CCN)N | C3H10N2
reactant | benzyl phenyl carbonate | 87.0 mmol, 20.0 g | C(OCC1=CC=CC=C1)(OC1=CC=CC=C1)=O | C14H12O3
solvent | EtOH | CCO | C2H6O
product | Benzyl 3-aminopropylcarbamate | NCCCNC(OCC1=CC=CC=C1)=O | C11H16N2O2
